US06921825B2
4-(4-Methylpiperazin-1-sulfonyl)aniline (0.5 g, 1.96 mmol) dissolved in anhydrous benzene was added dropwise to a solution of trichloromethylchloroformate (0.3 mL, 2.35 mmol) in anhydrous benzene at −10° C. The mixture was warmed to room temperature for 10 minutes, then heated to 90° C. for 2 h. The mixture was concentrated under reduced pressure to provide 4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl isocyanate as a solid, used as an intermediate in the production of Compound 105. IR: 1166, 1339, 2265 cm1.

reactant | 4-(4-Methylpiperazin-1-sulfonyl)aniline | 1.96 mmol, 0.5 g | CN1CCN(CC1)S(=O)(=O)C1=CC=C(N)C=C1 | C11H17N3O2S
reactant | trichloromethylchloroformate | 2.35 mmol, 0.3 mL | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl isocyanate | CN1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N=C=O | C12H15N3O3S
